US05071857
Preparation of 3-ethyl-3-(4-pyridyl)-2,6-piperidinedione
A solution of potassium cyanide (25 g) in water (133 ml) and of 4-picolyl chloride hydrochloride (30 g) in reagent grade methanol (268 ml) was heated under reflux for 2 hours, concentrated under vacuum, diluted with water (500 ml) and extracted with CHCl3 (4×100 ml). Distillation of the extract afforded a single fraction of 4-pyridylacetonitrile (8.026 g), b.p. 84° C. at 0.15 mm Hg. This was dissolved in dry dimethylformamide (130 ml) and stirred with sodium hydride (3.4 g, 50% w/v dispersion in oil) for 2.5 hours. Ethyl iodide (5.7 ml, 1.93 g/ml) was added slowly with cooling and stirring. After 18 hours, excess solvent was evaporated off, the residue diluted with water (150 ml) and extracted with diethyl ether (3×300 ml). Flash chromatography (Merck Art 9385, CHCl3, 4.5×15 cm column) of the extract afforded a mixture of 2-(4-pyridyl)butyronitrile and 2-ethyl-2-(4-pyridyl)-butyronitrile (9.85 g). Acrylonitrile (4.46 ml) in t-butanol (5.5 ml) was added to a solution of the above mixture in t-butanol (18 ml) and "Triton B" (0.32 ml) with cooling and stirring. ("Triton" is a Registered Trade Mark in the UK and many other countries). After 2 hours, excess solvent was evaporated off, the residue diluted with water (150 ml) and extracted with CHCl3 (2×50 ml). Flash chromatography of the extract (CHCl3, 4.5×15 cm column) afforded a mixture of 2-ethyl-2-(4-pyridyl) butyronitrile and 4-cyano-4-(4-pyridyl)hexanonitrile (8 g). This mixture was heated under reflux with glacial acetic acid (15 ml) and conc. sulfuric acid (3 ml) during 0.5 hours, then with addition of 5N hydrochloric acid (15 ml) for a further 3 hours, cooled, diluted with water, adjusted to pH 7-7.5 with sodium hydrogen carbonate and extracted with methylene chloride. Elution from a column (4.5×30 cm) of silica gel (Merck, Kieselgel 6) with CHCl3 afforded the title compound, 2.95 g; (20% yield based on 4-pyridylacetonitrile) which crystallized from toluene, m.p. 138°-139° C. (corrected); mass spectrum, isobutane chemical ionization [MH+ ] at m/z=219: IR (KC1) cm-1 2990 (CH aromatic phenyl), 2800 (NH), 1720, 1784 (C=0 imide), 1605 (C=C, aromatic phenyl); 1H-NMR (CDCl3), δ0.87 (t,3H,CH3CH2), 1.80-2.82 (m, 6H, CH3CH2, H(4), H(5)), 7.15 (d, 2H, aromatic H(3), H(5), J=4.7 Hz), 8.55 (d, 2H, aromatic H(2), H(6), J=4.7 Hz), 9.13 (br.s., 1H, NH). Anal. C12H14N2O2, 218.25) Calcd: C,66.03; H,6.47; N,12.84, Found: C,66.00, H,6.58; N,12.87%.

reactant | sodium hydride | 3.4 g | [H-].[Na+]
reactant | Ethyl iodide | 5.7 ml | C(C)I | C2H5I
reactant | 2-(4-pyridyl)butyronitrile | N1=CC=C(C=C1)C(C#N)CC | C9H10N2
reactant | 2-ethyl-2-(4-pyridyl)-butyronitrile | 9.85 g | C(C)C(C#N)(CC)C1=CC=NC=C1 | C11H14N2
reactant | Acrylonitrile | 4.46 ml | C(C=C)#N | C3H3N
reactant | 4-cyano-4-(4-pyridyl)hexanonitrile | 8 g | C(#N)C(CCC#N)(CC)C1=CC=NC=C1 | C12H13N3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 5N, 15 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | t-butanol | 5.5 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 18 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-ethyl-3-(4-pyridyl)-2,6-piperidinedione | 20% yield | C(C)C1(C(NC(CC1)=O)=O)C1=CC=NC=C1 | C12H14N2O2
